### PR TITLE
[Merged by Bors] - feat: port Data.PNat.Factors

### PR DESCRIPTION
**Pull request by qawbecrdtey**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/PNat/Factors.lean [hunk 1]
```diff
@@ -0,0 +1,428 @@
...
+    factorMultiset (n * m) = factorMultiset n + factorMultiset m := by
+  let u := factorMultiset n
+  let v := factorMultiset m
+  have : n = u.prod := (prod_factorMultiset n).symm; rw [this]
+  have : m = v.prod := (prod_factorMultiset m).symm; rw [this]
+  rw [← PrimeMultiset.prod_add]
+  repeat' rw [PrimeMultiset.factorMultiset_prod]
+#align pnat.factor_multiset_mul PNat.factorMultiset_mul
+
+theorem factorMultiset_pow (n : ℕ+) (m : ℕ) : factorMultiset (n ^ m) = m • factorMultiset n := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/PNat/Factors.lean:307]: Lean doesn't seem to find the `Pow ℕ+ ℕ` instance, and insists on using the `Pow ℕ ℕ` instance (inserting a coercion). Not sure how to solve that.

Comment (LukasMias) [reply Mathlib/Data/PNat/Factors.lean]: Made it compile by replacing  `^` with `Pow.pow`, this also reproduces the original meanings of theorems from mathlib3, like in `prod_smul`. Zulip thread for further discussion: [here](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Data.2EPNat.2EFactors.20!4.231830)

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
